US06635657B1
D. N-(5-Chloropyridin-2-yl)-4-methoxycarbonyl-2-[[1-(4-piperidinyl)ethyl]amino]benzamide
Using a similar procedure to that described in Example 47-D, N-(5-chloropyridin-2-yl)-2-[[1-(1-Boc-piperidin-4-yl)ethyl]amino]-4-methoxycarbonylbenzamide (0.35 g, 0.68 mmol) and borane trimethylamine complex (0.15 g, 2.0 mmol) afforded 70 mg of the title compound. IS-MS, m/e 417 (m+1); Analysis for C21H25ClN4O3.2HCl: Calcd: C, 51.50; H, 5.56; N, 11.44; Found: C, 51.51; H, 5.73; N, 11.26.

reactant | N-(5-chloropyridin-2-yl)-2-[[1-(1-Boc-piperidin-4-yl)ethyl]amino]-4-methoxycarbonylbenzamide | 0.68 mmol, 0.35 g | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)C(=O)OC)NC(C)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C26H33ClN4O5
reactant | borane trimethylamine complex | 2.0 mmol, 0.15 g | [B-][N+](C)(C)C | C3H9BN
product | N-(5-Chloropyridin-2-yl)-4-methoxycarbonyl-2-[[1-(4-piperidinyl)ethyl]amino]benzamide | 70 mg | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)C(=O)OC)NC(C)C1CCNCC1)=O | C21H25ClN4O3
